US04490388
Example 8 Synthesis of 4-(β-amidinoethenyl)phenyl trans-4-benzyloxycarbonylaminomethylcyclohexanecarboxylate:
To a solution of 5.0 g of trans-4-benzyloxycarbonylaminomethylcyclohexanecarboxylic acid in 50 ml of dried pyridine, while being cooled in ice, was added 4.2 g of DCC. After 30 minutes of stirring, to the mixture was added 4.4 g of 4-(β-amidinoethenyl)phenol methanesulfonate. The mixture was stirred overnight at room temperature. The DCU precipitated from the reaction mixture was separated by filtration and washed with pyridine. Ethyl ether was added to the combined filtrate to precipitate a white substance which was collected by filtration, washed with ethyl ether, and recrystallized from ethanol to yield 5.7 g of colorless needle crystals of 4-(β-amidinoethenyl)pnenyl trans-4-benzyloxycarbonylaminomethylcyclohexanecarboxylate methanesulfonate.

reactant | trans-4-benzyloxycarbonylaminomethylcyclohexanecarboxylic acid | 5.0 g | C(C1=CC=CC=C1)OC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O | C16H21NO4
reactant | DCC | 4.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-(β-amidinoethenyl)phenol methanesulfonate | 4.4 g | CS(=O)(=O)OC1=CC=C(C=C1)C=CC(N)=N | C10H12N2O3S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-(β-amidinoethenyl)phenyl trans-4-benzyloxycarbonylaminomethylcyclohexanecarboxylate | 5.7 g | C(C1=CC=CC=C1)OC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)OC1=CC=C(C=C1)C=CC(N)=N | C25H29N3O4
